US06770659B2
A mixture of 4-(4-fluorobenzoyl)piperidine(5 mmol) and 2-(4-nitro-phenyl)oxirane (5 mmol) was refluxed in 30 ml of isopropanol for 4 h. This solution was then concentrated on a rotary evaporator and diluted with ethyl acetate. This mixture was then washed with brine, the resulting organic layer was dried and concentrated in vacuo. The crude product was dissolved in dichloromethane (50 ml) and was added with methanesulfonyl chloride (2 eq.) and triethylamine (3 eq.) at 0° C. The reaction mixture was stirred at room temperature for 1 h. This solution was then concentrated on a rotary evaporator and dissolved in THF (50 ml), added triethylamine (3 eq.), followed by the addition of excess methanol (>10 eq.). After 12 hours stirring at 80° C., this solution is concentrated on a rotary evaporator and diluted with ethyl acetate. The organic layer was extracted 3 times with dichloromethane, dried and concentrated in vacuo. The residue was purified by column chromatography (ethyl acetate:hexane=1:1). The resulting (4-fluoro-phenyl)-{1-[2-methoxy-2-(4-nitro-phenyl)-ethyl]-piperidin-4-yl}-methanone was dissolved in dichloromethane and the solution was treated with a solution of HCl in ethyl ether. The resulting precipitate was filtered to give (4-fluoro-phenyl)-{1-[2-methoxy-2-(4-nitro-phenyl)-ethyl]-piperidin-4-yl}-methanone; hydrochloride

reactant | 4-(4-fluorobenzoyl)piperidine | 5 mmol | FC1=CC=C(C(=O)C2CCNCC2)C=C1 | C12H14FNO
reactant | 2-(4-nitro-phenyl)oxirane | 5 mmol | [N+](=O)([O-])C1=CC=C(C=C1)C1OC1 | C8H7NO3
reactant | methanesulfonyl chloride | 2 eq. | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 3 eq. | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 3 eq. | C(C)N(CC)CC | C6H15N
reactant | methanol | >10 eq. | CO | CH4O
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
product | (4-fluoro-phenyl)-{1-[2-methoxy-2-(4-nitro-phenyl)-ethyl]-piperidin-4-yl}-methanone | FC1=CC=C(C=C1)C(=O)C1CCN(CC1)CC(C1=CC=C(C=C1)[N+](=O)[O-])OC | C21H23FN2O4
